datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].CCCCCCCCCCCCCCCCCC[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CCCCCCCCCCCCCCCCCC[NH2+:10][H:20] 10=20;20,21=21",
"COc1ccc(C[NH2:10])c([N+](=O)[O-])c1.O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>COc1ccc(C[NH2+:10][H:20])c([N+](=O)[O-])c1.O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"CC(C)[O-:10].CC1=CC=C([CH:21](C(=O)C2=CC=[N+](C)C=C2)[H:20])C=C1>>CC(C)[O:10][H:20].CC1=CC=C([CH-:21]C(=O)C2=CC=[N+](C)C=C2)C=C1 10=20;20,21=21",
"Cc1ccc(C(OCC[N+:21](C)(C)[H:20])c2ccccc2)cc1.O=S(=O)(c1cccc(C(F)(F)F)c1)[NH-:10]>>Cc1ccc(C(OCC[N:21](C)C)c2ccccc2)cc1.O=S(=O)(c1cccc(C(F)(F)F)c1)[NH:10][H:20] 10=20;20,21=21",
"C[N+:21]1([H:20])CCN(C(c2ccccc2)c2ccccc2)CC1.O=C(N[O-:10])c1ccccn1>>C[N:21]1CCN(C(c2ccccc2)c2ccccc2)CC1.O=C(N[O:10][H:20])c1ccccn1 10=20;20,21=21",
"C(c1nnn[n-]1)[NH2:10].CCCCNC(=O)[N:21](S(=O)(=O)c1ccc(C)cc1)[H:20]>>C(c1nnn[n-]1)[NH2+:10][H:20].CCCCNC(=O)[N-:21]S(=O)(=O)c1ccc(C)cc1 10=20;20,21=21",
"CCCC[NH:10]C.O=C1OC2=C(C=CC=C2)[CH:21]1[H:20]>>CCCC[NH+:10](C)[H:20].O=C1OC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CN(C)c1ccc([N+:21](C)(C)[H:20])cc1.O=C([O-])C[N:10]=C1CCCC1>>CN(C)c1ccc([N:21](C)C)cc1.O=C([O-])C[N+:10](=C1CCCC1)[H:20] 10=20;20,21=21",
"CCc1c([O-:10])nn(-c2ccccc2)c1C.Oc1c[nH+]ccc1[O:21][H:20]>>CCc1c([O:10][H:20])nn(-c2ccccc2)c1C.Oc1c[nH+]ccc1[O-:21] 10=20;20,21=21",
"CCCCC[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CCCCC[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(OCC[N:10](C)C)(c1ccccc1)c1ccccn1.[O-]c1cc([O:21][H:20])c2ccccc2[nH+]1>>CC(OCC[N+:10](C)(C)[H:20])(c1ccccc1)c1ccccn1.[O-]c1cc([O-:21])c2ccccc2[nH+]1 10=20;20,21=21",
"CN1C(=O)N(C)c2c1cccc2[NH2:10].O=C(Oc1ccc([N+](=O)[O-])cc1)[C@@H]1CCC[C@@H]1[NH2+:21][H:20]>>CN1C(=O)N(C)c2c1cccc2[NH2+:10][H:20].O=C(Oc1ccc([N+](=O)[O-])cc1)[C@@H]1CCC[C@@H]1[NH2:21] 10=20;20,21=21",
"CC(C)SCC(=O)[O:21][H:20].CCOCC[N:10](CCOCC)c1ccccc1>>CC(C)SCC(=O)[O-:21].CCOCC[N+:10](CCOCC)(c1ccccc1)[H:20] 10=20;20,21=21",
"CC(C)(/C=C/C(=O)[O:21][H:20])c1cc(Br)ccc1O.CC(C)(C)[NH:10]C1CCCCC1>>CC(C)(/C=C/C(=O)[O-:21])c1cc(Br)ccc1O.CC(C)(C)[NH+:10](C1CCCCC1)[H:20] 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].CC(C)(CN)C[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CC(C)(CN)C[NH2+:10][H:20] 10=20;20,21=21",
"Nc1cc[nH+]c2c([O-:10])cccc12.O=S(=O)(c1ccc(O)cc1)[N:21](c1ncccn1)[H:20]>>Nc1cc[nH+]c2c([O:10][H:20])cccc12.O=S(=O)(c1ccc(O)cc1)[N-:21]c1ncccn1 10=20;20,21=21",
"C=CC(C)(C)[NH:10]C(C)(C)C=C.O=C(c1ccccc1)[N:21](c1nnc(-c2ccccc2)s1)[H:20]>>C=CC(C)(C)[NH+:10](C(C)(C)C=C)[H:20].O=C(c1ccccc1)[N-:21]c1nnc(-c2ccccc2)s1 10=20;20,21=21",
"CCCC[S-:10].Oc1cc([O:21][H:20])[nH+]c2ccccc12>>CCCC[S:10][H:20].Oc1cc([O-:21])[nH+]c2ccccc12 10=20;20,21=21",
"CC(=O)N[O:21][H:20].CN(C)C(=O)C[NH:10]C>>CC(=O)N[O-:21].CN(C)C(=O)C[NH+:10](C)[H:20] 10=20;20,21=21",
"C[C@@H]1CC[C@@H]2CCC[N:10]21.Cc1cccc(/C=N/[O:21][H:20])n1>>C[C@@H]1CC[C@@H]2CCC[N+:10]21[H:20].Cc1cccc(/C=N/[O-:21])n1 10=20;20,21=21",
"C(=N/[O:21][H:20])\c1cccnc1.C=C(C)C(=O)OCCC[NH2:10]>>C(=N/[O-:21])\c1cccnc1.C=C(C)C(=O)OCCC[NH2+:10][H:20] 10=20;20,21=21",
"O=C(c1cscn1)[O:21][H:20].O=[N+]([O-])c1ccc[n-:10]1>>O=C(c1cscn1)[O-:21].O=[N+]([O-])c1ccc[n:10]1[H:20] 10=20;20,21=21",
"CCCC(=O)C(CC[N:10]1CCOCC1)(c1ccccc1)c1ccccc1.O=C([O-])C[N+:21]1([H:20])CCCCC1>>CCCC(=O)C(CC[N+:10]1([H:20])CCOCC1)(c1ccccc1)c1ccccc1.O=C([O-])C[N:21]1CCCCC1 10=20;20,21=21",
"COc1cc(OC)nc([N-]S(=O)(=O)c2ccc([O-:10])cc2)n1.Nc1ccc([NH2+:21][H:20])c(N)c1>>COc1cc(OC)nc([N-]S(=O)(=O)c2ccc([O:10][H:20])cc2)n1.Nc1ccc([NH2:21])c(N)c1 10=20;20,21=21",
"CC1=C(CC(C)[NH+:21](CC(O)c2ccc(F)cc2)[H:20])CCC1(C)C.c1ccc2c(c1)C[NH2+]CCC[NH:10]Cc1ccccc1OCCCO2>>CC1=C(CC(C)[NH:21]CC(O)c2ccc(F)cc2)CCC1(C)C.c1ccc2c(c1)C[NH2+]CCC[NH+:10]([H:20])Cc1ccccc1OCCCO2 10=20;20,21=21",
"COC(=O)C1=C[N+:21]2([H:20])CCC1CC2.O=C(c1cc[nH]c1)[O-:10]>>COC(=O)C1=C[N:21]2CCC1CC2.O=C(c1cc[nH]c1)[O:10][H:20] 10=20;20,21=21",
"O=C([O-])CNC(=O)c1ccccc1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=C([O-])CNC(=O)c1ccccc1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].Oc1ccc(CC[NH2:10])cc1O>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.Oc1ccc(CC[NH2+:10][H:20])cc1O 10=20;20,21=21",
"CC(=O)C=C(C)[O:21][H:20].Cc1cncc(C)[n:10]1>>CC(=O)C=C(C)[O-:21].Cc1cncc(C)[n+:10]1[H:20] 10=20;20,21=21",
"Nc1nccc2c1[nH+]cn2CCOCP(=O)([O-])[O:21][H:20].O=C(/C=C/c1ccoc1)[O-:10]>>Nc1nccc2c1[nH+]cn2CCOCP(=O)([O-])[O-:21].O=C(/C=C/c1ccoc1)[O:10][H:20] 10=20;20,21=21",
"CN(C)c1oc2c([n+:21]1[H:20])CCCC2.Cc1ccc(O)c([O-:10])c1>>CN(C)c1oc2c([n:21]1)CCCC2.Cc1ccc(O)c([O:10][H:20])c1 10=20;20,21=21",
"COC(=O)C(Cc1c[nH]cn1)[NH2:10].Cc1ccc(CC[NH2+:21][H:20])cc1>>COC(=O)C(Cc1c[nH]cn1)[NH2+:10][H:20].Cc1ccc(CC[NH2:21])cc1 10=20;20,21=21",
